* AD102 Lab 01 -- u_trap.spice
* The whole of "Getting started, step 5", as a deck you can run.
*
* One device -- sky130_fd_pr__res_high_po, one micron wide and ten long --
* written the right way and the wrong way, side by side. 1 uA through each,
* and the resistance is V/I.
*
* In an ngspice deck most numbers take SI suffixes: `1k` is a thousand ohms,
* `0.7p` is 0.7 picofarads. SKY130 device widths and lengths do NOT work that
* way -- W and L are already plain micron numbers, so `W=1` MEANS one micron
* and `W=1u` means one micron times 10^-6.
*
* Watch what the wrong one does. It does not blow up, return zero, or go
* negative. It returns a perfectly ordinary resistance about 10 % off, with
* one 'resistance too low' warning buried in the middle of the run, and
* ngspice still exits 0.
*
* Runs inside hpretl/iic-osic-tools:2026.08.   ngspice -b spice/u_trap.spice

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Ia 0 a dc 1u
Xa a 0 0 sky130_fd_pr__res_high_po W=1  L=10
Ib 0 b dc 1u
Xb b 0 0 sky130_fd_pr__res_high_po W=1u L=10u

.control
op
let good = v(a)/1u
let bad  = v(b)/1u
echo "--- the same device, written two ways (ohms) ---"
print good
print bad
.endc
.end
