* AD102 Lab 03 -- my_rc.spice   <-- THIS IS THE FILE YOU EDIT
*
* Build a 20.0 ns time constant out of one sky130_fd_pr__res_high_po at
* W = 1 um and one square sky130_fd_pr__cap_mim_m3_1.
*
*   TAU must land within 1 % of 20.0 ns
*   TOTAL DRAWN AREA (resistor body + capacitor plate) must be under 400 um^2
*
* There are infinitely many R,C pairs whose product is 20 ns. They do not
* cost the same. Area is
*      L_resistor * 1 um   +   side^2
* and you have both formulas already:
*      R = 378.2448 + 317.2198 * L                    (Lab 01)
*      C[fF] = 2.000000 s^2 + 0.659991 s - 0.017742   (Lab 02)
*
* The values shipped below make a perfectly good 20 ns time constant out of
* 2 kohm and 10 pF. Run `make mine` and look at what it costs.
*
* Change ONLY the two L= numbers on the resistor and the W=/L= pair on the
* capacitor. Keep the capacitor square.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

Vm mi 0 PULSE(0 1.8 1n 10p 10p 200n 400n)
Xrm mi mo 0 sky130_fd_pr__res_high_po W=1 L=5.1124
*                                            ^^^^^^ resistor length
Xcm mo 0 sky130_fd_pr__cap_mim_m3_1 W=70.5459 L=70.5459
*                                     ^^^^^^^   ^^^^^^^ capacitor side

.tran 2p 120n

.control
run
meas tran t_mine WHEN v(mo)=1.137816 RISE=1
.endc
.end
